US08309577B2
Step D: Dimethyl 6-(pyrazin-2-yl)pyrimidin-4-ylcarbonimidodithioate
To a solution of 6-(pyrazin-2-yl)pyrimidin-4-amine (0.2 g, 1.155 mmol) in DMF was added NaOH (0.115 mL, 2.310 mmol), CS2 (0.174 mL, 2.89 mmol), NaOH (0.115 mL, 2.310 mmol) and Met (0.181 mL, 2.89 mmol) at 15 min intervals. Stirring was continued for 1.5 h and the mixture was poured into water. The orange solid was separated, washed with water, dried to give a bright yellow solid (0.14 g, 0.505 mmol, 44%). MS (LC/MS) R.T.=3.19; [M+H]+=278.19.

reactant | 6-(pyrazin-2-yl)pyrimidin-4-amine | 1.155 mmol, 0.2 g | N1=C(C=NC=C1)C1=CC(=NC=N1)N | C8H7N5
reactant | NaOH | 2.310 mmol, 0.115 mL | [OH-].[Na+]
reactant | CS2 | 2.89 mmol, 0.174 mL | C(=S)=S | CS2
reactant | NaOH | 2.310 mmol, 0.115 mL | [OH-].[Na+]
reactant | Met | 2.89 mmol, 0.181 mL | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Dimethyl 6-(pyrazin-2-yl)pyrimidin-4-ylcarbonimidodithioate | 0.505 mmol, 0.14 g, 44% | N1=C(C=NC=C1)C1=CC(=NC=N1)N=C(SC)SC | C11H11N5S2
